US05021413
4-(5.6-dichloro-3-oxoindan-1-carbonyl)-3-(pyrrolidin-1-yl-methyl)morpholine hydrochloride
The procedure described in Example 24 was repeated, but using 0.88 g of 3-(pyrrolidin-1-ylmethyl)morpholine, 2.0 ml of triethylamine and 1.0 g of 5,6-dichloro-3-oxoindan-1-carbonyl chloride, to afford 0.66 g of the title compound, melting at 250°-257° C. (dec.).

reactant | 3-(pyrrolidin-1-ylmethyl)morpholine | 0.88 g | N1(CCCC1)CC1NCCOC1 | C9H18N2O
reactant | 5,6-dichloro-3-oxoindan-1-carbonyl chloride | 1.0 g | ClC=1C=C2C(CC(C2=CC1Cl)C(=O)Cl)=O | C10H5Cl3O2
solvent | triethylamine | 2.0 ml | C(C)N(CC)CC | C6H15N
product | 4-(5.6-dichloro-3-oxoindan-1-carbonyl)-3-(pyrrolidin-1-yl-methyl)morpholine hydrochloride | 0.66 g | Cl.ClC=1C=C2C(CC(C2=CC1Cl)C(=O)N1C(COCC1)CN1CCCC1)=O | InChI=1S/C19H22Cl2N2O3.ClH/c20-16-7-13-14(8-17(16)21)18(24)9-15(13)19(25)23-5-6-26-11-12(23)10-22-3-1-2-4-22;/h7-8,12,15H,1-6,9-11H2;1H
